US07625880B2
To a 500 mL round-bottom flask was added 4-phenyl-[1,4]azaphosphinane 4-oxide hydrochloride salt (5.91 g, 25.6 mmole), MP-carbonate resin (20 g, 2.9 mmole/g), and water (200 mL). The flask was sealed with a plastic stopper and placed on an orbital shaker for 12 hours. The resin was then removed by filtration with though a glass frit, and washed with water (40 mL) to provide 4-phenyl-[1,4]azaphosphinane 4-oxide free-base as an aqueous solution.

reactant | 4-phenyl-[1,4]azaphosphinane 4-oxide hydrochloride salt | 25.6 mmole, 5.91 g | Cl.C1(=CC=CC=C1)P1(CCNCC1)=O
reactant | MP-carbonate resin | 20 g | CC[NH+](CC)CC.CC[NH+](CC)CC.C(=O)([O-])[O-]
solvent | water | 200 mL | O | H2O
product | 4-phenyl-[1,4]azaphosphinane 4-oxide | C1(=CC=CC=C1)P1(CCNCC1)=O | C10H14NOP
